US06841678B2
Preparation of 4-isobutyl-3-nitro quinoline
4-chloro-3-nitro-quinoline is reacted with isobutyl amine in the presence of triethanolamine (TEA) at between −10 and +15° C. in toluene, while excluding moisture. After washing and phase separation, the organic solution is ready for the next step.

reactant | 4-chloro-3-nitro-quinoline | ClC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C9H5ClN2O2
reactant | isobutyl amine | C(C(C)C)N | C4H11N
reactant | triethanolamine | N(CCO)(CCO)CCO | C6H15NO3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-isobutyl-3-nitro quinoline | C(C(C)C)C1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C13H14N2O2
